US07528147B2
A suspension of 1.6 g of 5-chloro-3-trimethylsilanylethynylpyridin-2-ylamine and 1.24 g of potassium fluoride in 80 ml of methanol is brought to reflux for approximately 3 hours 30 minutes. After returning to a temperature in the region of 20° C., the mixture is filtered through celite, and the insoluble material is washed three times with 50 ml of methanol. The filtrate is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up with 100 ml of dichloromethane. The solution obtained is washed with three times 60 ml of water, dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (13 kPa). 0.97 g of 5-chloro-3-ethynylpyridin-2-ylamine is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 5-chloro-3-trimethylsilanylethynylpyridin-2-ylamine | 1.6 g | ClC=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13ClN2Si
reactant | potassium fluoride | 1.24 g | [F-].[K+]
solvent | methanol | 80 ml | CO | CH4O
product | 5-chloro-3-ethynylpyridin-2-ylamine | 0.97 g | ClC=1C=C(C(=NC1)N)C#C | C7H5ClN2
